US08912188B2
To a solution of (S)-methyl 2-(2-methyl-1H-indol-5-yl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylate (142.1 mg, 0.34 mmol) in methanol (30 ml) was added NaOH (55 mg, 1.38 mmol) and water (2 ml). The resulting solution was stirred overnight at room temperature and concentrated under vacuum to give a residue, which was dissolved in water (20 ml), and the pH adjusted to 4 with HCl (3N). The solids were collected by filtration to afford (S)-2-(2-methyl-1H-indol-5-yl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid (11.9 mg, 9%).

reactant | (S)-methyl 2-(2-methyl-1H-indol-5-yl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylate | 0.34 mmol, 142.1 mg | CC=1NC2=CC=C(C=C2C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCCC1)C)C(=O)OC | C25H26N4O2
reactant | NaOH | 1.38 mmol, 55 mg | [OH-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | (S)-2-(2-methyl-1H-indol-5-yl)-3-(2-methylpiperidin-1-yl)quinoxaline-6-carboxylic acid | 11.9 mg, 9% | CC=1NC2=CC=C(C=C2C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCCC1)C)C(=O)O | C24H24N4O2
